US07321061B2
Tetrahydrofuran (10 ml), (2-benzyloxy-phenyl) methanesulfonic acid (138 mg), and N,N-dimethylformamide (2 drops) was cooled to −78° C. and oxalyl chloride (315 mg) was added slowly. The reaction mixture was stirred for 3 h from −78° C. to 0° C. The reaction mixture was clarified by filtration. The filtrate was washed with iced-water and heptane, and dried to give (2-benzyloxy-phenyl)-methanesulfonyl chloride (114 mg, 77%). 1H NMR (400 MHz, CHLOROFORM-D): δ ppm 5.06 (s, 2 H) 5.15 (s, 2 H) 7.04 (m, 2 H) 7.42 (m, 7 H).

reactant | (2-benzyloxy-phenyl) methanesulfonic acid | 138 mg | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CS(=O)(=O)O | C14H14O4S
reactant | oxalyl chloride | 315 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | Tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2-benzyloxy-phenyl)-methanesulfonyl chloride | 114 mg, 77% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CS(=O)(=O)Cl | C14H13ClO3S
